US08258130B2
A solution of 5-fluoroindole (5.4 g) and toluene-4-sulphonyl chloride (9.12 g) in toluene (300 mL) is treated with a cooled solution of sodium hydroxide pellets (23.2 g) in water (200 mL) followed by the tetrabutylammonium hydrogen sulfate catalyst (400 mg). The mixture is stirred at rt for 24 h. The organic phase is separated, washed with water and brine, dried (MgSO4) and concentrated in vacuo to afford 5-fluoro-1-(toluene-4-sulfonyl)-1H-indole (10.7 g, 78%). MS: 290 (M+H)

reactant | 5-fluoroindole | 5.4 g | FC=1C=C2C=CNC2=CC1 | C8H6FN
reactant | toluene-4-sulphonyl chloride | 9.12 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | sodium hydroxide | [OH-].[Na+]
solvent | toluene | 300 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 200 mL | O | H2O
catalyst | tetrabutylammonium hydrogen sulfate | 400 mg | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 5-fluoro-1-(toluene-4-sulfonyl)-1H-indole | 10.7 g, 78% | FC=1C=C2C=CN(C2=CC1)S(=O)(=O)C1=CC=C(C=C1)C | C15H12FNO2S
